US08217069B2
To a mixture of 9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-6-methoxy-2-(1,3-dioxo-1,3-dihydroisoindol-2-yl)-7,9-dihydro-8H-purin-8-one (0.27 g), potassium carbonate (0.12 g) and sodium iodide (13 mg) in N,N-dimethylformamide (5 mL) was added 1-bromo-3,3-dimethoxypropane (0.087 mL), and the mixture was stirred at room temperature overnight. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was dissolved in tetrahydrofuran (5 mL). To the solution was added hydrazine monohydrate (0.1 mL), and the reaction vessel was equipped with a reflux condenser, and the mixture was stirred at 80° C. for 1 hour. The reaction mixture was diluted with ethyl acetate, and the insoluble material was removed by filtration. The filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/1−ethyl acetate) to give 2-amino-9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-6-methoxy-7-(3,3-dimethoxypropyl)-7,9-dihydro-8H-purin-8-one (0.23 g). To the solution of the obtained 2-amino-9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-6-methoxy-7-(3-dimethoxy-propyl)-7,9-dihydro-8H-purin-8-one (0.15 g) in tetrahydrofuran (4 mL) were added 4-dimethylaminopyridine (9 mg) and di(tert-butyl)dicarbonate (0.1 g), and the mixture was heated at reflux for 1.5 hours. The reaction mixture was poured into 0.5 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. To the residue were added methanol (4 mL) and potassium carbonate (0.1 g), and the mixture was heated at reflux for 1.5 hours. To the reaction mixture was added water, and the resulting mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/1−1/9) to give 2-(tert-butoxycarbonylamino)-9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-6-methoxy-7-(3,3-dimethoxy propyl)-7,9-dihydro-8H-purin-8-one (0.14 g). This material was dissolved in N,N-dimethylformamide (2 mL). To the solution were added sodium hydride (55%, 17 mg) and methyl bromoacetate (0.037 mL), and the mixture was stirred at room temperature for 3 hours. To the reaction mixture was added 1 mol/L hydrochloric acid, and the mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/1−1/4) to give 2-[N-(tert-butoxycarbonyl)-N-methoxycarbonylmethylamino]-9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-6-methoxy-7-(3,3-dimethoxypropyl)-7,9-dihydro-8H-purin-8-one (0.14 g). This material was dissolved in tetrahydrofuran (4 mL). To the solution were added concentrated hydrochloric acid (0.15 mL) and water (0.15 mL), and the mixture was stirred at room temperature for 2 hours. To the reaction mixture were added lithium hydroxide monohydrate (0.19 g), methanol (2 mL) and water (2 mL), and the mixture was stirred at room temperature for 2 hours. The reaction mixture was poured into 0.5 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: ethyl acetate−ethyl acetate/methanol=4/1) to give 2-[N-(tert-butoxycarbonyl)-N-carboxymethylamino]-9-[2-chloro-5-(2,3-difluoro-6-methoxy-benzyloxy)-4-methoxyphenyl]-6-methoxy-7,9-dihydro-8H-purin-8-one (0.11 g). To this material was added hydrochloric acid (4 mol/L ethyl acetate solution, 3 mL), and the mixture was stirred at room temperature for 3 hours. The reaction mixture was neutralized by adding 1 mol/L aqueous sodium hydroxide solution. The mixture was poured into a saturated aqueous ammonium chloride solution, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: ethyl acetate−ethyl acetate/methanol=4/1). The obtained product was suspended in a mixed solvent (n-hexane/ethyl acetate=1/3), and collected by filtration. The collected material was dried under reduced pressure to give the title compound (30 mg).

reactant | 9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-6-methoxy-2-(1,3-dioxo-1,3-dihydroisoindol-2-yl)-7,9-dihydro-8H-purin-8-one | 0.27 g | ClC1=C(C=C(C(=C1)OC)OCC1=C(C(=CC=C1OC)F)F)N1C2=NC(=NC(=C2NC1=O)OC)N1C(C2=CC=CC=C2C1=O)=O | C29H20ClF2N5O7
reactant | potassium carbonate | 0.12 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 13 mg | [I-].[Na+]
reactant | 1-bromo-3,3-dimethoxypropane | 0.087 mL | BrCCC(OC)OC | C5H11BrO2
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-amino-9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-6-methoxy-7-(3,3-dimethoxypropyl)-7,9-dihydro-8H-purin-8-one | 0.23 g | NC1=NC(=C2N(C(N(C2=N1)C1=C(C=C(C(=C1)OCC1=C(C(=CC=C1OC)F)F)OC)Cl)=O)CCC(OC)OC)OC | C26H28ClF2N5O7
